US08735424B2
A route to prepare 4-hydroxy 6-chloro 1,7 napthyridine is depicted in Scheme III. Starting with 2-chloro-4-methyl-5-nitropyridine, condensation with dimethylformamidedimethylacetal and subsequent oxidative cleavage yields 2-chloro-5-nitroisonicotinaldehyde. Chemoselective methyl addition to the aldehyde with methyllithium and titaniumtetrachloride at −50° C. followed by oxidation yields 1-(2-chloro-5-nitropyridin-4-yl)ethanone. Nitro reduction with iron in acetic acid, followed by a two step monotosylation yields N-(4-acetyl-6-chloropyridin-3-yl)-4-nitrobenzenesulfonamide. Upon heating with dimethylformamidedimethylacetal and diisopropylethylamine in DMF at 105° C. and subsequent treatment with thiophenol at room temperature, 6-chloro-1,7-naphthyridin-4-ol is obtained IV. Conversion of IV to the corresponding triflate or benzyl ether using standard conditions yields bifunctional intermediates which can be taken through the chemical transformation depicted in Schemes 1 and 2 to yield 4,6 disubstituted 1,7 naphthyridines V.

reactant | 4-hydroxy 6-chloro 1,7 napthyridine | OC1=CC=NC2=CN=C(C=C12)Cl | C8H5ClN2O
reactant | 2-chloro-4-methyl-5-nitropyridine | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
product | 2-chloro-5-nitroisonicotinaldehyde | ClC=1C=C(C=O)C(=CN1)[N+](=O)[O-] | C6H3ClN2O3
